US05990105
0.39 g (0.001 mol) of 4-(2,6-dibromopyridine-4-sulphonyl)-phenylamine was dissolved in 10 ml of dioxane and treated with 1.9 ml (0.01 mol) of N-tert.-butoxycarbonyl-1,4-diaminobutane. The mixture was stirred at 60° C. for 18 hrs., the solvent was removed and the residue was chromatographed on silica gel with ethyl acetate/hexane 1:1. There was obtained 0.36 g (77%) of tert-butyl [4-[4-(4-aminobenzenesulphonyl)-6-bromopyridin-2-ylamino]-butyl]-carbamate as a pale yellow oil. MS (ISP): me/e=501, 499 (C20H26BrN4O4S+).

reactant | 4-(2,6-dibromopyridine-4-sulphonyl)-phenylamine | 0.001 mol, 0.39 g | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)Br | C11H8Br2N2O2S
reactant | N-tert.-butoxycarbonyl-1,4-diaminobutane | 0.01 mol, 1.9 ml | C(C)(C)(C)OC(=O)NCCCCN | C9H20N2O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | tert-butyl [4-[4-(4-aminobenzenesulphonyl)-6-bromopyridin-2-ylamino]-butyl]-carbamate | 0.36 g, 77% | NC1=CC=C(C=C1)S(=O)(=O)C1=CC(=NC(=C1)Br)NCCCCNC(OC(C)(C)C)=O | C20H27BrN4O4S
